US09371262B2
(4S,E)-1-butyl-4,7,8-trimethyl-10-propyl-3,4,5,6,9,10-hexahydroazecin-2(1H)-one
Following the general procedure as described in Example 17, 2,5-dimethyl-2-(prop-1-en-2-yl)cyclohexanone (1.06 g, 6.38 mmol), N-butylidenebutan-1-amine (0.97 g, 7.65 mmol), and SnCl4 (1.66 g, 6.38 mmol) in 1,2-dichloroethane (65 ml) were reacted to give the title product as a colorless liquid (1.28 g, 76% yield). 3 isomers in a ratio of 1:2:8.

reactant | 2,5-dimethyl-2-(prop-1-en-2-yl)cyclohexanone | 6.38 mmol, 1.06 g | CC1(C(CC(CC1)C)=O)C(=C)C | C11H18O
reactant | N-butylidenebutan-1-amine | 7.65 mmol, 0.97 g | C(CCC)=NCCCC | C8H17N
reactant | SnCl4 | 6.38 mmol, 1.66 g | Cl[Sn](Cl)(Cl)Cl
solvent | 1,2-dichloroethane | 65 ml | ClCCCl | C2H4Cl2
product | (4S,E)-1-butyl-4,7,8-trimethyl-10-propyl-3,4,5,6,9,10-hexahydroazecin-2(1H)-one | 1.28 g, 76% yield | C(CCC)N1C(C[C@H](CC\C(=C(\CC1CCC)/C)\C)C)=O | C19H35NO
